US07214673B2
(S)-1,4-Dibenzyl-2-[2-(2-chloro-phenyl)-ethyl]-piperazine
Combine (S)-1,4-dibenzyl-2-vinyl-piperazine (6.0 g, 20.52 mmol) and 9-borabicyclo[3.3.1]nonane (164.1 ml, 82.07 mmol, 0.5 M in THF) and stir at ambient temperature. After 24 hrs, add 1-iodo-2-chloro-benzene (7.34 g, 30.78 mmol), triphenylphosphine (861.0 mg, 3.28 mmol), tetrakis(triphenylphosphine)palladium(0)(474.1 mg, 0.41 mmol), and 3N NaOH (16.8 ml) and stir at 60°. After 22 hrs, remove the THF under vacuum, stir the residue in 2N NaOH, and extract with diethyl ether. Wash the organic with 1N H2SO4 then adjust the aqueous to pH 14. Extract the aqueous with diethyl ether and combine, wash (brine), dry (sodium sulfate), and reduce the extracts to residue. Recrystallize the residue in warm ethanol to give 2.59 g (31%) of the title compound: mass spectrum (ion spray): m/z=405.4 (M+1); Analysis for C26H29ClN2: calcd: C, 77.11; H, 7.22; N, 6.92; found: C, 77.12; H, 7.13; N, 7.07.

reactant | (S)-1,4-dibenzyl-2-vinyl-piperazine | 20.52 mmol, 6.0 g | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)C=C | C20H24N2
reactant | 9-borabicyclo[3.3.1]nonane | 82.07 mmol, 0.5 M, 164.1 ml | C12CCCC(CCC1)B2 | C8H15B
reactant | 1-iodo-2-chloro-benzene | 30.78 mmol, 7.34 g | IC1=C(C=CC=C1)Cl | C6H4ClI
reactant | triphenylphosphine | 3.28 mmol, 861.0 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | NaOH | 3N, 16.8 ml | [OH-].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.41 mmol, 474.1 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-1,4-Dibenzyl-2-[2-(2-chloro-phenyl)-ethyl]-piperazine | 2.59 g, 31% | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)CCC1=C(C=CC=C1)Cl | C26H29ClN2
